US07893074B2
2-[2-(2,5-Dimethoxy-phenylamino)-5-nitro-pyrimidin-4-ylamino]-N-methyl-benzenesulfonamide
To a solution of 2-(2-chloro-5-nitro-pyrimidin-4-ylamino)-N-methyl-benzenesulfonamide (100 mg, 0.29 mmol) in EtOH (3 mL), 2,5-dimethoxyaniline (49 mg, 0.32 mmol) is added at room temperature. The mixture is heated at 78° C. for 5 h. The solvent is evaporated, and the mixture is purified by reverse phase HPLC to give the title product in.

reactant | 2-(2-chloro-5-nitro-pyrimidin-4-ylamino)-N-methyl-benzenesulfonamide | 0.29 mmol, 100 mg | ClC1=NC=C(C(=N1)NC1=C(C=CC=C1)S(=O)(=O)NC)[N+](=O)[O-] | C11H10ClN5O4S
reactant | 2,5-dimethoxyaniline | 0.32 mmol, 49 mg | COC1=C(N)C=C(C=C1)OC | C8H11NO2
solvent | EtOH | 3 mL | CCO | C2H6O
product | 2-[2-(2,5-Dimethoxy-phenylamino)-5-nitro-pyrimidin-4-ylamino]-N-methyl-benzenesulfonamide | COC1=C(C=C(C=C1)OC)NC1=NC=C(C(=N1)NC1=C(C=CC=C1)S(=O)(=O)NC)[N+](=O)[O-] | C19H20N6O6S
